US06300330B1
4-(2-Pyridyl)benzoic acid (199 mg,1 mmol) was suspended in DMF (5 mL) and triethylamine (0.14 mL, 1 mmol) was added. The reaction mixture was stirred at room temperature for 15 minutes then cooled to 5° C. Carbonyl diimidazole (162 mg, 1 mmol) was added and the reaction mixture allowed to warm slowly to room temperature over one hour. 1-(6-Bromonaphth-2-ylsulphonyl)piperazine hydrochloride (393 mg, 1 mmol) was added as a solid in one portion and the reaction mixture was stirred overnight at room temperature then concentrated in vacuo. The crude product was dissolved in ethyl acetate (50 mL) and washed with aqueous sodium bicarbonate solution (2×50 mL). The tube organic layer was dried over MgSO4, filtered and concentrated in vacuo. The resulting off white solid was subjected to chromatography (SiO2; 100% EtOAc) to yield 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(2-pyridyl)benzoyl]piperazine as a white solid (92 mg); 1H NMR (DMSO-d6) δ=3.09 ppm (s,4H), δ=3.62 ppm (s,4H), δ=7.37 ppm (t,1H), δ=7.51 to 7.99 ppm (m,4H), δ=7.42 and 8.08 ppm (dd,4H), δ=8.17 ppm (dd,2H), δ=8.40 ppm (d,1H), δ=8.47 ppm (s,1H), δ=8.66 ppm (dd,1H); MS (M+H)+ 536.

reactant | 4-(2-Pyridyl)benzoic acid | 1 mmol, 199 mg | N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | triethylamine | 1 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | Carbonyl diimidazole | 1 mmol, 162 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 1-(6-Bromonaphth-2-ylsulphonyl)piperazine hydrochloride | 1 mmol, 393 mg | Cl.BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(2-pyridyl)benzoyl]piperazine | 92 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C26H22BrN3O3S
